US08084490B2
Catechol (13.2 g, 0.12 mol) and potassium carbonate (16.6 g, 0.12 mol) were stirred in DMF (250 mL) and (2R)-glycidyl tosylate (22.8 g, 0.10 mol) was added and the reaction was stirred at 60° C. for 24 h. The reaction was cooled to room temperature and diluted with ice water (1 L) and extracted with diethyl ether (4 times). The combined organic solution was washed 3 times with 10% potassium carbonate, once with water, once with brine and evaporated in vacuo to yield a white solid which was purified by flash column chromatography (DCM:Methanol—50:1) to yield ((2S)-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol as a solid.

reactant | Catechol | 0.12 mol, 13.2 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | potassium carbonate | 0.12 mol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2R)-glycidyl tosylate | 0.10 mol, 22.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | ((2S)-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol | O1[C@H](COC2=C1C=CC=C2)CO | C9H10O3
